US07453010B2
A mixture of 0.8 g (1.26 mmol) of trans-N-[5-[((2S)-3-{benzyl[4-(4-hydroxyphenyl)cyclohexyl]amino}-2-hydroxypropyl)oxy]-2-(benzyloxy)phenyl]methanesulfonamide and of 0.2 g of 10% palladium-on-charcoal (50% in water) in ethanol (40 ml) is placed under hydrogen atmosphere and stirred for 2 h. The reaction mixture is filtered through celite. The solvents are evaporated under reduced pressure and trans-N-{2-hydroxy-5-[((2S)-2-hydroxy-3-{[4-(4-hydroxyphenyl)cyclohexyl]amino}propyl)oxy]phenyl}methanesulfonamide is obtained in the form of a white solid (0.24 g, 67%) after purification on silica gel (eluent: dichloromethane/methanol, 95/5 to 80/20 gradient in 15 min).

reactant | trans-N-[5-[((2S)-3-{benzyl[4-(4-hydroxyphenyl)cyclohexyl]amino}-2-hydroxypropyl)oxy]-2-(benzyloxy)phenyl]methanesulfonamide | 1.26 mmol, 0.8 g | C(C1=CC=CC=C1)N(C[C@@H](COC=1C=CC(=C(C1)NS(=O)(=O)C)OCC1=CC=CC=C1)O)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O | C36H42N2O6S
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.2 g | [Pd] | Pd
product | trans-N-{2-hydroxy-5-[((2S)-2-hydroxy-3-{[4-(4-hydroxyphenyl)cyclohexyl]amino}propyl)oxy]phenyl}methanesulfonamide | OC1=C(C=C(C=C1)OC[C@H](CN[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O)O)NS(=O)(=O)C | C22H30N2O6S
